US07517995B2
benzyl[2-(3-methyl-2-oxo-butylcarbamoyl)-ethyl]-carbamate
10.81 ml (126.08 mmol) oxalyl chloride are placed in 300 ml dichloromethane, cooled to −70° C. 11.94 ml (168.11 mmol) dimethylsulphoxide are slowly added dropwise. The mixture is stirred for 0.1 hours, then 32.40 g (105.07 mmol) benzyl [2-(2-hydroxy-3-methyl-butylcarbamoyl)-ethyl]-carbamate in 70 ml dichloromethane are added. The mixture is stirred for 1 hour, then 62.48 ml (450.72 mmol) triethylamine are added dropwise. The reaction mixture is stirred for 1.5 hours at −70° C., then slowly allowed to come up to ambient temperature. It is diluted with dichloromethane and washed with 1 molar hydrochloric acid, saturated sodium carbonate solution, water and saturated sodium chloride solution. The organic phase is dried and evaporated to dryness.

reactant | oxalyl chloride | 126.08 mmol, 10.81 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulphoxide | 168.11 mmol, 11.94 ml | CS(=O)C | C2H6OS
reactant | benzyl [2-(2-hydroxy-3-methyl-butylcarbamoyl)-ethyl]-carbamate | 105.07 mmol, 32.40 g | OC(CNC(=O)CCNC(OCC1=CC=CC=C1)=O)C(C)C | C16H24N2O4
reactant | triethylamine | 450.72 mmol, 62.48 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | benzyl[2-(3-methyl-2-oxo-butylcarbamoyl)-ethyl]-carbamate | C(C1=CC=CC=C1)OC(NCCC(NCC(C(C)C)=O)=O)=O | C16H22N2O4
